US08802659B2
A solution of 6-(spiro[5.5]undec-3-yloxy)-naphthalene-2-carbaldehyde (150 mg, 0.46 mmol) and 3-amino-2,2-difluoro-propionic acid (58.2 mg, 0.465 mmol) in ethanol (0.7 mL, 10 mmol) was heated to reflux for 2 h. The yellow solution was then cooled to room temperature and sodium cyanoborohydride (35.1 mg, 0.558 mmol) was added portionwise. The resulting mixture was heated to reflux for 1 h. The reaction was then cooled to room temperature, and citric acid was added. The solution was stirred for several minutes and the solvent removed under vacuum. The resulting solid was suspended in water and filtered, and the collected solid was washed thoroughly with water (4×), ether (5×), and hexane (5×) to give (82.1 mg, 41%) of 2,2-difluoro-3-((6-(spiro[5.5]undecan-3-yloxy)naphthalen-2-yl)methylamino)propanoic acid. 1H NMR (400 MHz, CDCl3) δ: 7.93 (s, 1H), 7.86 (d, J=8.5 Hz, 1H), 7.83 (d, J=9.1 Hz, 1H), 7.52 (dd, J=8.4, 1.8 Hz, 1H), 7.30 (d, J=2.2 Hz, 1H), 7.22 (dd, J=9.0, 2.4 Hz, 1H), 4.52 (m, 1H), 4.45 (s, 2H), 3.60 (t, J=15.9 Hz, 2H), 1.76-1.35 (m, 18H).

reactant | 6-(spiro[5.5]undec-3-yloxy)-naphthalene-2-carbaldehyde | 0.46 mmol, 150 mg | C1CC(CCC12CCCCC2)OC=2C=C1C=CC(=CC1=CC2)C=O | C22H26O2
reactant | 3-amino-2,2-difluoro-propionic acid | 0.465 mmol, 58.2 mg | NCC(C(=O)O)(F)F | C3H5F2NO2
reactant | ethanol | 10 mmol, 0.7 mL | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 0.558 mmol, 35.1 mg | C(#N)[BH3-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 2,2-difluoro-3-((6-(spiro[5.5]undecan-3-yloxy)naphthalen-2-yl)methylamino)propanoic acid | 82.1 mg, 41% | FC(C(=O)O)(CNCC1=CC2=CC=C(C=C2C=C1)OC1CCC2(CC1)CCCCC2)F | C25H31F2NO3
